US08084484B2
d) 2-(2-Thioxo-2,3-dihydro-benzooxazol-5-yl)-propionic acid ethyl ester
A solution of 2-(3-amino-4-hydroxy-phenyl)-propionic acid ethyl ester (370 mg) in DMF (2 mL) was added phenyl chlorothionoformate (380 mg in DMF), and DBU (540 mg, in DMF) at room temperature. The reaction mixture was stirred for 16 h at room temperature and water was added to this mixture. The resulting mixture was extracted with ethyl ether. The combined organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. The resulting residue was chromatographed on silica gel (n-Hex:EtOAc=4:1) to afford the product as white solid. (130 mg, 29.2%)

reactant | 2-(3-amino-4-hydroxy-phenyl)-propionic acid ethyl ester | 370 mg | C(C)OC(C(C)C1=CC(=C(C=C1)O)N)=O | C11H15NO3
reactant | phenyl chlorothionoformate | 380 mg | C1=CC=C(C=C1)OC(=S)Cl | C7H5ClOS
reactant | DBU | 540 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-(2-Thioxo-2,3-dihydro-benzooxazol-5-yl)-propionic acid ethyl ester | C(C)OC(C(C)C=1C=CC2=C(NC(O2)=S)C1)=O | C12H13NO3S
